US05189054
Preparation of 3-[(4-Aminophenacyl)amino]-2-carbethoxy-4,6-dichloroindole
Dissolve 3-[(4-nitrophenacyl)amino]-2-carbethoxy-4,6-dichloroindole (0.5 g, 1.184 mmol) in ethanol (20 mL) and tin (II) chloride monohydrate (1.06 g, 7.1 mmol). Heat to 70° C. overnight. Pour into ethyl acetate/water (200 mL) and add solid sodium hydrogen carbonate to obtain pH 7. Filter and evaporate the solvent in vacuo to give the title compound as a pale yellow oil (0.477, 100%).

reactant | 3-[(4-nitrophenacyl)amino]-2-carbethoxy-4,6-dichloroindole | 1.184 mmol, 0.5 g | [N+](=O)([O-])C1=CC=C(C(CNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=C1 | C19H15Cl2N3O5
reactant | tin (II) chloride monohydrate | 7.1 mmol, 1.06 g | O.[Sn](Cl)Cl
reactant | ethyl acetate water | 200 mL | C(C)(=O)OCC.O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-[(4-Aminophenacyl)amino]-2-carbethoxy-4,6-dichloroindole | 100% | NC1=CC=C(C(CNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=C1 | C19H17Cl2N3O3
